US08530493B2
To a solution of (+/−)-2-amino-3-[5-(2-methoxy-ethoxy)-1H-indol-3-yl]-2-methyl-propionic acid methyl ester (800 mg, 2.60 mmol) and 3-hydroxybenzaldehyde (383 mg, 3.14 mmol, 1.2 equiv) in dry dichloromethane (20 ml) trifluoroacetic acid (200 μl, 2.6 mmol, 1 equiv) is added and the mixture is stirred under argon at room temperature. When TLC indicated the disappearance of the starting material (1 day), a little methanol is added to dissolve the precipitated product. Then it is diluted with CH2Cl2 (250 ml) and washed with 2 M aqueous HCl, aqueous NaHCO3 and water, dried, and concentrated. Column chromatography (dichloromethane-ethyl acetate, 7:1→5:1) of the residue gives (1RS,3SR)-1-(3-hydroxy-phenyl)-6-(2-methoxy-ethoxy)-3-methyl-2,3,4,9-tetrahydro-1H-beta-carboline-3-carboxylic acid methyl ester (839 mg, 78%) and (1RS,3RS)-1-(3-hydroxy-phenyl)-6-(2-methoxyethoxy)-3-methyl-2,3,4,9-tetrahydro-1H-beta-carboline-3-carboxylic acid methyl ester (152 mg, 14%).

reactant | (+/−)-2-amino-3-[5-(2-methoxy-ethoxy)-1H-indol-3-yl]-2-methyl-propionic acid methyl ester | 2.60 mmol, 800 mg | COC(C(CC1=CNC2=CC=C(C=C12)OCCOC)(C)N)=O | C16H22N2O4
reactant | 3-hydroxybenzaldehyde | 3.14 mmol, 383 mg, 1.2 equiv | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | methanol | CO | CH4O
solvent | CH2Cl2 | 250 ml | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 2.6 mmol, 20 ml, 1 equiv | ClCCl | CH2Cl2
product | (1RS,3RS)-1-(3-hydroxy-phenyl)-6-(2-methoxyethoxy)-3-methyl-2,3,4,9-tetrahydro-1H-beta-carboline-3-carboxylic acid methyl ester | 152 mg, 14% | COC(=O)C1(NC(C=2NC3=CC=C(C=C3C2C1)OCCOC)C1=CC(=CC=C1)O)C | C23H26N2O5
